US08877744B2
A dried pressure tube was charged with (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one (intermediate B6.1) (250 mg, 622 μmol) and dimethylformamide (2 ml). The solution was flushed with argon, thereafter, successively bis(triphenylphosphin)palladium(II)chloride (31.2 mg, 43.5 μmol), triphenylphoshine (3.26 mg, 12.4 μmol), triethylamine (126 mg, 1.24 mmol), 1-chloro-3-ethynylbenzene (175 mg, 1.24 mmol), and copper(i) iodide (3.6 mg, 18.7 μmol) were added. The tube was sealed and the reaction mixture stirred at room temperature for 10 minutes, then it was heated at 60° C. for 16 hours. For the workup, the reaction mixture was cooled and evaporated at reduced pressure. The residue was directly purified by chromatography on an amine-silica phase using a gradient of heptane/ethyl acetate=100:0 to 60:10 as the eluent. The (R)-5-[5-(3-chloro-phenylethynyl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one (235 mg, 90% yield) was obtained as a green foam. MS (ISP): m/z=422.1 [M+2+H]+ and 424.2 [M+H]+.

reactant | (R)-5-(5-bromo-2-fluorophenyl)-6,6-difluoro-5,7,7-trimethyl-1,4-oxazepan-3-one | 622 μmol, 250 mg | BrC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C14H15BrF3NO2
reactant | triethylamine | 1.24 mmol, 126 mg | C(C)N(CC)CC | C6H15N
reactant | 1-chloro-3-ethynylbenzene | 1.24 mmol, 175 mg | ClC1=CC(=CC=C1)C#C | C8H5Cl
catalyst | bis(triphenylphosphin)palladium(II)chloride | 43.5 μmol, 31.2 mg | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl
catalyst | copper(i) iodide | 18.7 μmol, 3.6 mg | [Cu]I
catalyst | triphenylphoshine | 12.4 μmol, 3.26 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | (R)-5-[5-(3-chloro-phenylethynyl)-2-fluoro-phenyl]-6,6-difluoro-5,7,7-trimethyl-[1,4]oxazepan-3-one | 235 mg, 90% yield | ClC=1C=C(C=CC1)C#CC=1C=CC(=C(C1)[C@]1(NC(COC(C1(F)F)(C)C)=O)C)F | C22H19ClF3NO2
